US07045544B2
Ethyl 5-amino-1-phenyl-1H-indole-2-carboxylate
300 mg (0.97 mmol) of ethyl 5-nitro-1-phenyl-1H-indole-2-carboxylate from Example LVI are initially charged in 40 ml of ethyl acetate and 40 ml of ethanol. 365 mg (5.80 mmol) of ammonium formate and 102 mg of palladium on activated carbon (10%) are added. The mixture is heated to reflux, and at 50° C. gas evolves. After 4 hours at reflux, the mixture is cooled and filtered off through kieselguhr, which is washed with 500 ml of ethanol. The solvent is removed under reduced pressure and the residue is dried.

reactant | ethyl 5-nitro-1-phenyl-1H-indole-2-carboxylate | 0.97 mmol, 300 mg | [N+](=O)([O-])C=1C=C2C=C(N(C2=CC1)C1=CC=CC=C1)C(=O)OCC | C17H14N2O4
reactant | ammonium formate | 5.80 mmol, 365 mg | C(=O)[O-].[NH4+]
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium on activated carbon | 102 mg | [Pd] | Pd
product | Ethyl 5-amino-1-phenyl-1H-indole-2-carboxylate | NC=1C=C2C=C(N(C2=CC1)C1=CC=CC=C1)C(=O)OCC | C17H16N2O2
